* dose extracted macro characterization
.include /work/designs/g1-guardian/blocks/g1_dose/sim/qualification/mismatch_nominal100_20260922_r1/coupon_mm1.spice
.temp 27
.option method=gear reltol=1e-4 abstol=1e-16 vntol=1e-7 gmin=1e-16
.global sub!
Vsub sub! 0 0
Vdd vdd 0 1.2
Vdda vdda 0 3.3
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt_mismatch
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerDIO.lib dio_tt
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_io/spice/sg13g2_io.spi
XP_g g_pad g_unused vdd 0 vdda 0 sg13g2_IOPadAnalog
R_g g_pad g_wire 27.104449999999996
CRa_g g_pad 0 2.42020938f
CRb_g g_wire 0 2.42020938f
VM_g g_wire g 0
XP_dh dh_pad dh_unused vdd 0 vdda 0 sg13g2_IOPadAnalog
R_dh dh_pad dh_wire 142.1812
CRa_dh dh_pad 0 12.673852799999999f
CRb_dh dh_wire 0 12.673852799999999f
VM_dh dh_wire dh 0
XP_dl dl_pad dl_unused vdd 0 vdda 0 sg13g2_IOPadAnalog
R_dl dl_pad dl_wire 83.70295000000002
CRa_dl dl_pad 0 7.464010860000002f
CRb_dl dl_wire 0 7.464010860000002f
VM_dl dl_wire dl 0
X1 dh dl g 0 g1_dose_macro
Vg g_pad 0 0
Vdh dh_pad 0 1.2
Vdl dl_pad 0 1.2
.option seed=55150
.control
set num_threads=1
set numdgt=15
set wr_singlescale
set wr_vecnames
setseed 55150
reset
set temp=27
alter Vg dc=0
op
echo FP_BEGIN t0_27_before
print @n.x1.xm1.nsg13_lv_nmos[w]
print @n.x1.xm1.nsg13_lv_nmos[l]
print @n.x1.xm1.nsg13_lv_nmos[delvto]
print @n.x1.xm1.nsg13_lv_nmos[factuo]
print @n.x1.xm2.nsg13_hv_nmos[w]
print @n.x1.xm2.nsg13_hv_nmos[l]
print @n.x1.xm2.nsg13_hv_nmos[delvto]
print @n.x1.xm2.nsg13_hv_nmos[factuo]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[w]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[l]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[delvto]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[factuo]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[w]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[l]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[delvto]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[factuo]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[w]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[l]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[delvto]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[factuo]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[w]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[l]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[delvto]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[factuo]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[w]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[l]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[delvto]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[factuo]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[w]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[l]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[delvto]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[factuo]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[w]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[l]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[delvto]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[factuo]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[w]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[l]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[delvto]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[factuo]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[w]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[l]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[delvto]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[factuo]
echo FP_END t0_27_before
dc Vg -0.3 1.2 0.01
wrdata /work/designs/g1-guardian/blocks/g1_dose/sim/qualification/mismatch_nominal100_20260922_r1/seed55150/t0_27.tsv v(g) v(dh) v(dl) i(vm_g) i(vm_dh) i(vm_dl) i(vg) i(vdh) i(vdl) i(vdd) i(vdda)
echo FP_BEGIN t0_27_after
print @n.x1.xm1.nsg13_lv_nmos[w]
print @n.x1.xm1.nsg13_lv_nmos[l]
print @n.x1.xm1.nsg13_lv_nmos[delvto]
print @n.x1.xm1.nsg13_lv_nmos[factuo]
print @n.x1.xm2.nsg13_hv_nmos[w]
print @n.x1.xm2.nsg13_hv_nmos[l]
print @n.x1.xm2.nsg13_hv_nmos[delvto]
print @n.x1.xm2.nsg13_hv_nmos[factuo]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[w]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[l]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[delvto]
print @n.xp_g.xi0.xp0.nsg13_hv_pmos[factuo]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[w]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[l]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[delvto]
print @n.xp_g.xi0.xp1.nsg13_hv_pmos[factuo]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[w]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[l]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[delvto]
print @n.xp_g.xi4.xn0.nsg13_hv_nmos[factuo]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[w]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[l]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[delvto]
print @n.xp_dh.xi0.xp0.nsg13_hv_pmos[factuo]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[w]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[l]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[delvto]
print @n.xp_dh.xi0.xp1.nsg13_hv_pmos[factuo]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[w]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[l]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[delvto]
print @n.xp_dh.xi4.xn0.nsg13_hv_nmos[factuo]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[w]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[l]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[delvto]
print @n.xp_dl.xi0.xp0.nsg13_hv_pmos[factuo]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[w]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[l]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[delvto]
print @n.xp_dl.xi0.xp1.nsg13_hv_pmos[factuo]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[w]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[l]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[delvto]
print @n.xp_dl.xi4.xn0.nsg13_hv_nmos[factuo]
echo FP_END t0_27_after
echo DOSE_MISMATCH_END
quit 0
.endc
.end
